US07598244B2
A commercially available hexan-2,5-dion (137 g) was dissolved in benzene (300 ml). Thereafter, ethylene glycol (100 ml) and p-toluenesulfonic acid (11.4 g) were added to the solution, and the mixture was then dehydrated by heating to reflux for 5 hours. The reaction product was diluted with ethyl acetate, and then washed with an aqueous saturated sodium bicarbonate solution and a saturated saline solution. The organic layer was then dried over anhydrous sodium sulfate. The solvent was-distilled off under a reduced pressure, and the residue was subjected to vacuum distillation (80° C. to 82° C./3 mmHg) to obtain 4-(2-methyl[1,3]dioxolan-2-yl)butan-2-one (56.83 g).

reactant | hexan-2,5-dion | 137 g | CC(CCC(C)=O)=O | C6H10O2
reactant | ethylene glycol | 100 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 11.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-methyl[1,3]dioxolan-2-yl)butan-2-one | 56.83 g | CC1(OCCO1)CCC(C)=O | C8H14O3
